US06528543B1
A solution of freshly prepared lithium diisopropylamide (23.0 mL of a 0.31M stock solution, 7.13 mmol) cooled to −78° C. was treated with (3,4-difluoro-phenyl)-acetic acid methyl ester (1.20 g, 6.48 mmol) in tetrahydrofuran/hexamethylphosphoramide (16.1 mL, 3:1). The resulting solution was stirred at −78° C. for 45 min. At this time, the reaction was treated with a solution of iodomethylcyclopentane (1.50 g, 7.13 mmol) in hexamethylphosphoramide (1 mL). The reaction mixture was stirred at −78° C. for 4 h. The reaction was then warmed to 25° C. and was stirred at 25° C. for 16 h. The reaction mixture was then quenched by the dropwise addition of a saturated aqueous ammonium chloride solution (20 mL). This mixture was poured into water (100 mL) and extracted with ethyl acetate (3×50 mL). The organics were dried over sodium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, 75/25 hexanes/ethyl acetate) afforded 3-cyclopentyl-2-(3,4-difluoro-phenyl)-propionic acid methyl ester (1.79 g, quant.) as a clear oil: EI-HRMS m/e calcd for C15H18F2O2 (M+) 268.1275, found 268.1278.

reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | (3,4-difluoro-phenyl)-acetic acid methyl ester | 6.48 mmol, 1.20 g | COC(CC1=CC(=C(C=C1)F)F)=O | C9H8F2O2
reactant | iodomethylcyclopentane | 7.13 mmol, 1.50 g | ICC1CCCC1 | C6H11I
solvent | tetrahydrofuran hexamethylphosphoramide | 16.1 mL | O1CCCC1.CN(P(=O)(N(C)C)N(C)C)C
solvent | hexamethylphosphoramide | 1 mL | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | 3-cyclopentyl-2-(3,4-difluoro-phenyl)-propionic acid methyl ester | 1.79 g | COC(C(CC1CCCC1)C1=CC(=C(C=C1)F)F)=O | C15H18F2O2
